US06333428B1
Under a nitrogen atmosphere, 19.5 g of (1RS,5RS,6RS)ethyl 6-fluoro-2-oxobicyclo[3.1.0]hexane-6-carboxylate dissolved into 230 ml of tetrahydrofuran at −78° C. was added dropwise to 230 ml of a tetrahydrofuran solution of lithium bis(trimethylsilyl)amide which was prepared from 78 ml of n-butyllithium (1.61M hexane solution) and 20.3 g of 1,1,1,3,3,3-hexamethyldisilazane. After stirring at this temperature for 1 hour, 19.8 ml of chlorotrimethylsilane was added thereto, and this was stirred at room temperature for 1.5 hours. After carrying out of concentration of the reaction solution under reduced pressure, anhydrous hexane was added to the residue, the resulting inorganic salt was filtered off, and the filtrate was further concentrated under reduced pressure. After the residue was dissolved into 240 ml of acetonitrile, 25.9 g of palladium acetate was added thereto, and then it was stirred at room temperature for one day. The reaction solution was diluted with 240 ml of diethyl ether, the palladium was filtered off by use of celite, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (silica gel: Wako gel C200 (made by Wako Pure Chemical Industries Ltd.), eluent: hexane-ethyl acetate=9:1 to 5:1), yielding 17.1 g of (1RS,5RS,6RS)ethyl 6-fluoro-2-oxobicyclo[3.1.0]hex-3-en-6-carboxylate.

reactant | (1RS,5RS,6RS)ethyl 6-fluoro-2-oxobicyclo[3.1.0]hexane-6-carboxylate | 19.5 g | FC1(C2CCC(C12)=O)C(=O)OCC | C9H11FO3
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | n-butyllithium | 1.61M, 78 ml | C(CCC)[Li]
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 20.3 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | chlorotrimethylsilane | 19.8 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 230 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 230 ml | O1CCCC1 | C4H8O
product | (1RS,5RS,6RS)ethyl 6-fluoro-2-oxobicyclo[3.1.0]hex-3-en-6-carboxylate | 17.1 g | FC1(C2C=CC(C12)=O)C(=O)OCC | C9H9FO3
